US08258160B2
To a stirred mixture of 5-bromo-3-methylthiophene-2-carboxylic acid (1.70 g, 7.69 mmol), 1-hydroxybenzotriazole (1.56 g, 11.54 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (2.21 g, 11.54 mmol) in anhydrous N,N-dimethylformamide (30 mL) was added N,N-diisopropylethylamine (4.10 mL, 23.54 mmol), followed by the addition of 3-(aminomethyl)pyridine (0.78 mL, 7.69 mmol). The resulting reaction mixture was stirred at ambient temperature for 16 h, and diluted with ethyl acetate (200 mL). The organic layer was washed with saturated aqueous sodium bicarbonate solution (3×100 mL) and water (100 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography eluted with 7% methanol in dichloromethane to afford 5-bromo-3-methyl-N-(pyridin-3-ylmethyl)thiophene-2-carboxamide as an off-white solid (1.92 g, 80%): MS (ES+) m/z 311.1 (M+1), 313.1 (M+1).

reactant | 5-bromo-3-methylthiophene-2-carboxylic acid | 7.69 mmol, 1.70 g | BrC1=CC(=C(S1)C(=O)O)C | C6H5BrO2S
reactant | 1-hydroxybenzotriazole | 11.54 mmol, 1.56 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 11.54 mmol, 2.21 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-diisopropylethylamine | 23.54 mmol, 4.10 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(aminomethyl)pyridine | 7.69 mmol, 0.78 mL | NCC=1C=NC=CC1 | C6H8N2
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 5-bromo-3-methyl-N-(pyridin-3-ylmethyl)thiophene-2-carboxamide | 1.92 g, 80% | BrC1=CC(=C(S1)C(=O)NCC=1C=NC=CC1)C | C12H11BrN2OS
